US05324840
Ethyl 5-[(E)-2-(5,6,7,8-tetrahydro-3,5,5,8,8-pentamethylnaphthalen-2-yl)propen-1-yl]-2-thiophenecarboxylate (Compound 20)
A suspension of 0.161 g (0.437 mmol) of 5-[(E)-2-(5,6,7,8-tetrahydro-3,5,5,8,8-pentamethylnaphthalen-2-yl)propen-1-yl]-2-thiophenecarboxylic acid, (Compound 21, 0.03 g, 0.655 mmol) in ETCH, 0.099 g (0.48 mmol) of 1,3-dicyclohexylcarbodiimide, and 5.3 mg (0.044 mmol) of 4-dimethylaminopyridine in 10 mL of methylene chloride was stirred at room temperature for 16 hours. The reaction mixture was filtered and the filtrate washed with water and brine. The organic layers were combined and dried (MgSO4), The solvent was removed in-vacuo and the residue purified using flash chromatography (SiO2, 5% ethyl acetate in hexanes) to give the title compound as a clear oil.

reactant | 5-[(E)-2-(5,6,7,8-tetrahydro-3,5,5,8,8-pentamethylnaphthalen-2-yl)propen-1-yl]-2-thiophenecarboxylic acid | 0.437 mmol, 0.161 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)/C(=C/C1=CC=C(S1)C(=O)O)/C | C23H28O2S
reactant | 1,3-dicyclohexylcarbodiimide | 0.48 mmol, 0.099 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.044 mmol, 5.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 5-[(E)-2-(5,6,7,8-tetrahydro-3,5,5,8,8-pentamethylnaphthalen-2-yl)propen-1-yl]-2-thiophenecarboxylate | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)/C(=C/C1=CC=C(S1)C(=O)OCC)/C | C25H32O2S
